* Copyright © Linear Technology Corp. 2017.  All rights reserved.
*
.subckt LT1121-3.3 1 2 3 4 5 6 7 8
Q1 N9 N1 8 0 PN
Q2 N1 N2 3 0 NA
Q3 N2 N3 N5 0 NP temp=27
C1 N2 N3 20p Rser=300K
Q4 N3 N3 N4 0 NP 10 temp=27
R3 N5 3 2.4K
C2 1 N3 20p Rser=20K
Q5 1 1 N6 0 FB temp=27
R6 N4 N6 81K
I1 8 5 6µ load
G2 8 N3 N8 3 7µ
G1 8 N2 N8 3 7µ
R1 8 N1 150K
R8 N9 1 1.1
D3 0 N10 F
G3 0 N10 1 N9 10m
Q7 N3 N1 N9 0 P 10m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N10 0 N8 3 table(0 3m 1 0)
D2 5 3 A
D4 3 5 B
I2 0 N10 3m
C4 8 N2 50p Rser=.1G
C8 8 N3 500p Rser=.1G Rpar=3G
R4 N4 3 2K
A1 5 3 3 3 3 3 N8 3 SCHMITT vt=.95 vh=1m trise=2u
A2 N10 0 N2 N2 N2 N2 3 N2 VARISTOR
.model PN PNP(BF=25 Cje=500p Cjc=500p)
.model NA NPN(BF=150K Cje=1p Cjc=1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1121-3.3
*
.subckt LT1121-5 1 2 3 4 5 6 7 8
Q1 N9 N1 8 0 PN
Q2 N1 N2 3 0 NA
Q3 N2 N3 N5 0 NP temp=27
C1 N2 N3 20p Rser=300K
Q4 N3 N3 N4 0 NP 10 temp=27
R3 N5 3 2.4K
C2 1 N3 20p Rser=20K
Q5 1 1 N6 0 FB temp=27
R6 N4 N6 135.5K
I1 8 5 6µ load
G2 8 N3 N8 3 7µ
G1 8 N2 N8 3 7µ
R1 8 N1 150K
R8 N9 1 1.1
D3 0 N10 F
G3 0 N10 1 N9 10m
Q7 N3 N1 N9 0 P 10m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N10 0 N8 3 table(0 3m 1 0)
D2 5 3 A
D4 3 5 B
I2 0 N10 3m
C4 8 N2 50p Rser=.1G
C8 8 N3 500p Rser=.1G Rpar=3G
R4 N4 3 2K
A1 5 3 3 3 3 3 N8 3 SCHMITT vt=.95 vh=1m trise=2u
A2 N10 0 N2 N2 N2 N2 3 N2 VARISTOR
.model PN PNP(BF=25 Cje=500p Cjc=500p)
.model NA NPN(BF=150K Cje=1p Cjc=1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1121-5
*
.subckt LT1121 1 2 3 4 5 6 7 8
Q1 N9 N1 8 0 PN
Q2 N1 N2 3 0 NA
Q3 N2 N3 N5 0 NP temp=27
C1 N2 N3 20p Rser=300K
Q4 N3 N3 N4 0 NP 10 temp=27
R3 N5 3 2.4K
C2 1 N3 20p Rser=20K
Q5 1 2 N6 0 FB temp=27
R6 N4 N6 95.4K
I1 8 5 6µ load
G2 8 N3 N8 3 7µ
G1 8 N2 N8 3 7µ
R1 8 N1 150K
R8 N9 1 1.1
D3 0 N10 F
G3 0 N10 1 N9 10m
Q7 N3 N1 N9 0 P 10m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
G5 N10 0 N8 3 table(0 3m 1 0)
D2 5 3 A
D4 3 5 B
I2 0 N10 3m
C4 8 N2 50p Rser=.1G
C6 2 3 10p
C8 8 N3 500p Rser=.1G Rpar=3G
R4 N4 3 2K
A1 5 3 3 3 3 3 N8 3 SCHMITT vt=.95 vh=1m trise=2u
A2 N10 0 N2 N2 N2 N2 3 N2 VARISTOR
.model PN PNP(BF=25 Cje=500p Cjc=500p)
.model NA NPN(BF=150K Cje=1p Cjc=1p Re=40)
.model NP NPN(Cje=10p Cjc=10p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1121
